US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid
Methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}benzoate (1.06 g, 2.6 mmol) was dissolved in THF (24 mL) and methanol (8 mL) then 1N lithium hydroxide solution (3.12 mL) added, followed by the dropwise addition of water (10 mL). The resultant solution was stirred for 3 hours at RT, a further portion of 1N lithium hydroxide solution (1.3 mL), the reaction stirred a further 2 hours, then further 1N lithium hydroxide solution (0.6 mL) added and stirring continued for another hour. The organics were removed by evaporation under reduced pressure, the aqueous solution was washed with diethyl ether (10 mL) then acidified with 2N hydrochloric acid and extracted with ethyl acetate (3×20 mL). The combined organics were washed with water (10 mL), brine (10 mL) and evaporated to dryness under reduced pressure to give the desired compound as a white solid (887 mg).

reactant | Methyl 3-{[5-(azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}benzoate | 2.6 mmol, 1.06 g | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)OC)C=C(C1)O[C@@H](COC)C | C20H23N3O6
reactant | methanol | 8 mL | CO | CH4O
reactant | lithium hydroxide | 1N, 3.12 mL | [OH-].[Li+]
reactant | water | 10 mL | O | H2O
reactant | lithium hydroxide | 1N, 1.3 mL | [OH-].[Li+]
reactant | lithium hydroxide | 1N, 0.6 mL | [OH-].[Li+]
solvent | THF | 24 mL | C1CCOC1 | C4H8O
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-{[(1R)-1-methyl-2-(methyloxy)ethyl]oxy}benzoic acid | 887 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)O)C=C(C1)O[C@@H](COC)C | C19H21N3O6
